US04824845
Example 4: Production of 2-cyclopropylamino-4-propanoylamino-6-amino-1,3,5-triazine-HCl
2.2 g of 2-cyclopropylamino-4-propanoylamino-6-amino-1,3,5-triazine are dissolved in 6 ml of 2N HCl, and the solution is stirred for 5 minutes at room temperature. After concentration by evaporation and subsequent drying, the product is obtained in the form of white crystalline powder having a melting point of 210°-212° C.

reactant | 2-cyclopropylamino-4-propanoylamino-6-amino-1,3,5-triazine | 2.2 g | C1(CC1)NC1=NC(=NC(=N1)NC(CC)=O)N | C9H14N6O
reactant | HCl | 2N, 6 ml | Cl | ClH
product | 2-cyclopropylamino-4-propanoylamino-6-amino-1,3,5-triazine-HCl | Cl.C1(CC1)NC1=NC(=NC(=N1)NC(CC)=O)N | InChI=1S/C9H14N6O.ClH/c1-2-6(16)12-9-14-7(10)13-8(15-9)11-5-3-4-5;/h5H,2-4H2,1H3,(H4,10,11,12,13,14,15,16);1H
